US09194851B2
A scheme for the synthesis of Mercaptohexyl Isocyanuric Acid (MH-ICA) is shown in FIG. 10A. 6-Bromohexyl isocyanuric acid was synthesized using methods and materials known in the art (see, e.g. Berl et al., Chem. Eur. J. 2000, 6, 1938-1946; and Hoeben et al., Org. Biomol. Chem. 2006, 4, 4460-4462). Briefly, 1-2 Cyanuric acid (6.2 g, 48 mmol) and ground K2CO3 (1.66 g, 12.0 mmol) were dissolved in DMSO (200 mL). After the mixture was stirred for 30 min, dibromohexane (2.98 g, 12.0 mmol, 0.25 equiv.) was added and was heated to 60° C. for 16 h. Upon cooling down the reaction to room temperature, the mixture solution was partitioned between diethyl ether and saturated KHSO4. The organic fraction was collected and the solvent was removed by rotary evaporator. Recrystallization of the residue from hexane yielded 6-bromohexyl isocyanuric acid which was extensively rinsed with hexane. The product (450 mg) was obtained in high purity. 1H NMR (500 MHz, DMSO-d6) δ: 11.38 (s, 2H), 3.62 (t, 2H), 3.52 (t, 2H), 1.78 (m, 2H), 1.50 (m, 2H), 1.38 (m, 2H), 1.27 (m, 2H) ppm; 13C NMR (125 MHz, DMSO-d6) δ: 149.85, 148.64, 40.28, 35.09, 32.12, 27.21, 27.15, 25.22 ppm. ESI-MS (M+): 293.98 (calculated 293.13).

reactant | Mercaptohexyl Isocyanuric Acid | SCCCCCCN1C(=O)NC(=O)NC1=O | C9H15N3O3S
reactant | Cyanuric acid | 48 mmol, 6.2 g | N1C(=O)NC(=O)NC1=O | C3H3N3O3
reactant | K2CO3 | 12.0 mmol, 1.66 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dibromohexane | 12.0 mmol, 2.98 g, 0.25 equiv. | BrC(CCCCC)Br | C6H12Br2
solvent | DMSO | 200 mL | CS(=O)C | C2H6OS
product | 6-bromohexyl isocyanuric acid | BrCCCCCCN1C(=O)NC(=O)NC1=O | C9H14BrN3O3
